US05328910
A solution of 1M BH3.THF complex in tetrahydrofuran (10.4ml, 9.2mM) was added dropwise, under an atmosphere of argon, to a stirred mixture of 4-(benzylmethylamino)-2-methyl-6-oxo-7-phenyl-5, 6-dihydro-7H-pyrrolo-[2,3-d]-pyrimidine (1.6g, 4.6mM) in dry tetrahydrofuran (105ml). The mixture was stirred at ambient temperature for 24 hours. The mixture was then added to 2M hydrochloric acid (100ml), the pH was adjusted to about pH7 using concentrated sodium hydroxide and then extracted with ethyl acetate (2×200ml). The organic layers were combined, dried and the solvent evaporated. The residue was purified by flash column chromotography on silica (Merck 9385), using a mixture of methylene chloride: hexane: ethyl acetate (10:8:1) as eluant to give 4[N-benzylmethylamino)-2-methyl-7-phenyl-5,6-dihydro-7H-pyrrolo-[2,3-d]-pyrimidine in the form of a pure solid with m.p. 105°-106° C.; microanalysis, found; C, 75.5; H, 6.7; N, 16.8%; C21H22N4.0.2H2 requires C, 75.6; H, 6.9; N, 16.8%. NMR: 2.47(3H,s,pyrimidine-CH3), 3.14(3H,s,N--CH3), 3.21(2H,t,N--CH2 --CH2 --), 3.91(2H,t,N--CH2--CH2--), 4.18(2H,s,N--CH2Ph), 6.99(1H,t,aromatic), 7.23-7.47(7H, complex, aromatic), 7.73(2H,d,aromatic); and a crude solid. The material was combined and used without further purification in the subsequent stage of the synthesis.

reactant | 4-(benzylmethylamino)-2-methyl-6-oxo-7-phenyl-5, 6-dihydro-7H-pyrrolo-[2,3-d]-pyrimidine | 4.6mM, 1.6g | C(C1=CC=CC=C1)CNC=1C2=C(N=C(N1)C)N(C(C2)=O)C2=CC=CC=C2 | C21H20N4O
reactant | hydrochloric acid | 2M, 100ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 9.2mM, 10.4ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 105ml | O1CCCC1 | C4H8O
product | 4[N-benzylmethylamino)-2-methyl-7-phenyl-5,6-dihydro-7H-pyrrolo-[2,3-d]-pyrimidine | C(C1=CC=CC=C1)CNC=1C2=C(N=C(N1)C)N(CC2)C2=CC=CC=C2 | C21H22N4
